US07473787B2
Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide
A stirring solution of the Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(6-chloro-pyridin-3-yl)-amide prepared above (50 mg, 0.10 mmol) in 1 mL of anhydrous piperidine was heated to 150° C. for 18 hours. The mixture was cooled to room temperature, quenched with water, and extracted with Et2O. The combined organic layers were dried over anhydrous MgSO4 and concentrated under reduced pressure to yield the desired compound (40 mg, 73%).

reactant | Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(6-chloro-pyridin-3-yl)-amide | C(C)(C)(C)C1=CC=C(C(=O)N2CC3C(C3C2)CN(C(=O)C=2SC=CC2)C=2C=NC(=CC2)Cl)C=C1 | C27H28ClN3O2S
solvent | piperidine | 1 mL | N1CCCCC1 | C5H11N
product | Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide | 40 mg, 73% | C(C)(C)(C)C1=CC=C(C(=O)N2CC3C(C3C2)CN(C(=O)C=2SC=CC2)C=2C=CC(=NC2)N2CCCCC2)C=C1 | C32H38N4O2S
